US07410976B2
4 N HCl-1,4-dioxane (200 mL) was added to 40.6 g tert-butyl 4-oxo-6-(1H-tetrazol-5-yl)spiro[chroman-2,4′-piperidine]-1′-carboxylate produced in Reference Example 6, and stirred at room temperature for 5 hours. The reaction mixture was concentrated, and the residue was triturated with methanol. The insoluble solid was collected through filtration, and dried under reduced pressure to obtain 6-(1H-tetrazol-5-yl)-spiro[chroman-2,4′-piperidine]-4-one as a colorless solid.

reactant | tert-butyl 4-oxo-6-(1H-tetrazol-5-yl)spiro[chroman-2,4′-piperidine]-1′-carboxylate | 40.6 g | O=C1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC2=CC=C(C=C12)C1=NN=NN1 | C19H23N5O4
solvent | HCl 1,4-dioxane | 4 N, 200 mL | Cl.O1CCOCC1
product | 6-(1H-tetrazol-5-yl)-spiro[chroman-2,4′-piperidine]-4-one | N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O | C14H15N5O2
